US08686024B2
Synthesis of 1-benzyl-3,3-dimethylindolin-5-yl cyclohexylcarbamate
The title compound was synthesized from 1-benzyl-3,3-dimethylindolin-5-ol (20.0 mg, 0.09 mmol) using the same procedure employed for Example 2 (2), but with cyclohexylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (12.2 mg, 41%) having the following characteristics.

reactant | 1-benzyl-3,3-dimethylindolin-5-ol | 0.09 mmol, 20.0 mg | C(C1=CC=CC=C1)N1CC(C2=CC(=CC=C12)O)(C)C | C17H19NO
reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 1-benzyl-3,3-dimethylindolin-5-yl cyclohexylcarbamate | C1(CCCCC1)NC(OC=1C=C2C(CN(C2=CC1)CC1=CC=CC=C1)(C)C)=O | C24H30N2O2
